US06951858B2
Step 4B. 4-[(2R)-Amino-2-phenylethyl]- 6-(2,6-difluorobenzyl)-2-phenyl-1,2,4-triazine-3,5-dione.
To a stirring suspension of 6-(2,6-difluorobenzyl)-2-phenyl-1,2,4-triazine-3,5-(4H)-dione (0.100 g, 0.317 mmol), triphenylphosphine (0.13 g, 0.48 mmol) and N-BOC-D-phenylglycinol (0.083 g, 0.35 mmol) in dry THF (5 mL) was added diethyl azodicarboxylate (0.080 g, 0.48 mmol) dropwise over 5 minutes. The mixture was stirred for 11 h, then concentrated to give a yellow solid. The crude was subjected to flash chromatography on silica gel (20% ethyl acetate:hexane) to give a 117 mg of viscous, pale yellow oil. To the oil in dichloromethane (4 mL) was added trifluoroacetic acid (0.5 mL). The mixture was stirred for 30 minutes, evaporated to dryness, re-dissolved in 5 mL dichloromethane, and carefully quenched with saturated aqueous sodium bicarbonate (5 mL). The layers were separated, and the aqueous layer was extracted with dichloro-methane (2×5 mL). The combined organics were dried over magnesium sulfate, evaporated, and subjected to flash chromatography on silica gel (1% methanol:dichloromethane to 100% methanol) to give the title compound as a viscous yellow oil (0.060 g, 43%). 1H NMR (TMS/CDCl3, 300 MHz): 7.45-7.11 (m, 11H); 6.93-6.81 (m, 2H); 4.43 (dd, J=4.0, 9.3 Hz, 1H); 4.31 (dd, J=9.9, 12.9 Hz, 1H), 4.10-4.05 (m, 1H); 4.10 (s, 2H); 1.92 (bs, 2H). MS (EI) m/e 435.1 (MH+).

reactant | 6-(2,6-difluorobenzyl)-2-phenyl-1,2,4-triazine-3,5-(4H)-dione | 0.317 mmol, 0.100 g | FC1=C(CC=2C(NC(N(N2)C2=CC=CC=C2)=O)=O)C(=CC=C1)F | C16H11F2N3O2
reactant | triphenylphosphine | 0.48 mmol, 0.13 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.48 mmol, 0.080 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 4-[(2R)-Amino-2-phenylethyl]- 6-(2,6-difluorobenzyl)-2-phenyl-1,2,4-triazine-3,5-dione | 0.060 g, 43% | N[C@@H](CN1C(N(N=C(C1=O)CC1=C(C=CC=C1F)F)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C24H20F2N4O2
